US08859574B2
A mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (42 mg, 0.1 mmol), 5-(chloromethyl)-3-isopropyl-1,2,4-oxadiazole (17 mg, 0.10 mmol) and DIEA (86 μL, 0.5 mmol) in DMF (1 mL) was stirred at rt overnight. The reaction was diluted with EtOAc (50 mL) and washed with water (2×5 mL). The EtOAc layer was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by silica chromatography (50-100% EtOAc in hexanes gradient) to give 5-Chloro-N2-(2-fluoro-4-(1-((3-isopropyl-1,2,4-oxadiazol-5-yl)methyl)piperidin-4-yl)-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as a white solid; ESMS m/z 540.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.1 mmol, 42 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | 5-(chloromethyl)-3-isopropyl-1,2,4-oxadiazole | 0.10 mmol, 17 mg | ClCC1=NC(=NO1)C(C)C | C6H9ClN2O
reactant | DIEA | 0.5 mmol, 86 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-Chloro-N2-(2-fluoro-4-(1-((3-isopropyl-1,2,4-oxadiazol-5-yl)methyl)piperidin-4-yl)-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)CC1=NC(=NO1)C(C)C)F)NC1=NNC(=C1)C | C26H31ClFN9O
